US04451471
2.0 g of 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione are dissolved in 10.4 ml of 2 N sodium hydroxide solution. 2.3 g of dibromoethane are added and the mixture is stirred at room temperature for 4 hours. The organic layer is then removed, the aqueous phase is subsequently shaken with 10 ml of toluene, and the combined organic phases are washed twice with 5 ml of 2 N sodium hydroxide solution each time, dried over magnesium sulphate and concentrated to dryness by evaporation under reduced pressure. 2-(2-Bromoethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole, Rf =0.65 (silica gel, toluene/ethyl acetate 10:1) is obtained.

reactant | 4,5-bis-(p-methoxyphenyl)-thiazoline-2-thione | 2.0 g | COC1=CC=C(C=C1)C1=NC(SC1C1=CC=C(C=C1)OC)=S | C17H15NO2S2
reactant | dibromoethane | 2.3 g | BrC(C)Br | C2H4Br2
solvent | sodium hydroxide | 2 N, 10.4 ml | [OH-].[Na+]
product | 2-(2-Bromoethylthio)-4,5-bis-(p-methoxyphenyl)-thiazole | BrCCSC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C19H18BrNO2S2
